US05041673
Step C: (+)-Trans-3-tert-butoxycarbonylamino-1,2,3,4-tetrahydro-2-naphthalenol
To (+)-trans-3-amino-1,2,3,4-tetrahydro-2-naphthalenol, hydrochloride (94 mg) was added a solution of di-tert butyldicarbonate (110 mg) in methanol (1.5 ml) and a solution of triethylamine (59 mg) in methanol (1.5 ml). The reaction mixture was stirred for 1 hour at room temperature and evaporated in vacuo. The residue was taken up in methylene chloride, washed with water and saturated aqueous sodium chloride and dried over magnesium sulfate. Evaporation of solvent gave a crude material which was crystallized from a cyclohexane/ethyl acetate mixture to yield the title compound as a white solid (74 mg), m.p. 168°-169° C.

reactant | (+)-trans-3-amino-1,2,3,4-tetrahydro-2-naphthalenol, hydrochloride | 94 mg | Cl.N[C@H]1[C@@H](CC2=CC=CC=C2C1)O
reactant | di-tert butyldicarbonate | 110 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 59 mg | C(C)N(CC)CC | C6H15N
solvent | methanol | 1.5 ml | CO | CH4O
solvent | methanol | 1.5 ml | CO | CH4O
product | (+)-Trans-3-tert-butoxycarbonylamino-1,2,3,4-tetrahydro-2-naphthalenol | 74 mg | C(C)(C)(C)OC(=O)N[C@H]1[C@@H](CC2=CC=CC=C2C1)O | C15H21NO3
